US08835472B2
2-(4-Bromo-phenyl)-propylamine
A mixture of 3.00 g (14.3 mmol) 2-(4-bromo-phenyl)-propionitrile and 40 mL ammonia solution (7N in methanol) is charged with 0.30 g Raney nickel. The mixture is stirred under an atmosphere of hydrogen (50 psi) at r.t. for 34 h. The mixture is filtered and the solvent is removed in vacuo. The crude product is used without further purification.

reactant | 2-(4-bromo-phenyl)-propionitrile | 14.3 mmol, 3.00 g | BrC1=CC=C(C=C1)C(C#N)C | C9H8BrN
catalyst | Raney nickel | 0.30 g | [Ni] | Ni
solvent | ammonia | 7N, 40 mL | N | H3N
product | 2-(4-Bromo-phenyl)-propylamine | BrC1=CC=C(C=C1)C(CN)C | C9H12BrN
